US06313312B1
4-Iodo-1-triphenylmethyl-1H-imidazole
To 4-iodo-1H-imidazole (Preparation 71, 3.0 g, 15.3 mmol) in N,N-dimethylformamide (25 ml) was added triphenylmethyl chloride (4.72 g, 16.9 mmol) and then triethylamine (2.5 ml, 18.4 mmol). After stirring at room temperature for 2.5 h, water (200 ml) was added and the reaction mixture was filtered and washed with water. The crude solid was chromatographed on silica gel eluting with hexane:ethyl acetate (5:1 and then 2:1). The material was then recrystallised from hexane and dichloromethane to give the title compound as a white solid (4.0 g, 59%).

reactant | 4-iodo-1H-imidazole | 15.3 mmol, 3.0 g | IC=1N=CNC1 | C3H3IN2
reactant | triphenylmethyl chloride | 16.9 mmol, 4.72 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triethylamine | 18.4 mmol, 2.5 ml | C(C)N(CC)CC | C6H15N
reactant | water | 200 ml | O | H2O
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 4-Iodo-1-triphenylmethyl-1H-imidazole | 4.0 g, 59% | IC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H17IN2
